US04929634
Preparation of 4,5-Dichloro-2-(3,4-dichlorophenyl)-1-(2-hydroxyethyl)-pyrrole-2-carbonitrile
To a stirred mixture of 2.0 g (6.5 mmol) of 4,5-dichloro-2-(3,4-dichlorophenyl)-pyrrole-3-carbonitrile and 0.88 g (7.8 mmol) of potassium tert-butoxide heated at reflux in 50 mL of dioxane is added 0.98 g (7.8 mmol) of bromoethanol. The mixture is stirred at reflux for 12 hours, cooled, diluted with 50 mL of water, and extracted several times with chloroform. The combined chloroform extracts are dried over magnesium sulfate and concentrated in vacuo to leave a solid which, on warming and dissolving in ethyl acetate, deposits on cooling mostly starting pyrrole. Concentration of the mother liquor and recrystallization of the residual solid from 20% ethyl acetate in hexane gives 0.31 g of a white solid, mp 143°-145° C.; IR 5077A.

reactant | 4,5-dichloro-2-(3,4-dichlorophenyl)-pyrrole-3-carbonitrile | 6.5 mmol, 2.0 g | ClC=1C(=C(NC1Cl)C1=CC(=C(C=C1)Cl)Cl)C#N | C11H4Cl4N2
reactant | potassium tert-butoxide | 7.8 mmol, 0.88 g | CC(C)([O-])C.[K+]
reactant | bromoethanol | 7.8 mmol, 0.98 g | BrC(C)O | C2H5BrO
reactant | pyrrole | N1C=CC=C1 | C4H5N
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | water | 50 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4,5-Dichloro-2-(3,4-dichlorophenyl)-1-(2-hydroxyethyl)-pyrrole-2-carbonitrile | 0.31 g | ClC=1CC(N(C1Cl)CCO)(C#N)C1=CC(=C(C=C1)Cl)Cl | C13H10Cl4N2O
